US08563547B2
(3) 4-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl) butyryl chloride (III-4)
4-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl)butyric acid (412 mg, 1.29 mmol) was dissolved in thionyl chloride, raised the temperature to reflux for 3 h, spun dry, residuals were washed by an appropriate amount of ethyl ether, generated 421 mg target product, yield was 97%, directly put to the next reaction step.

reactant | 4-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl)butyric acid | 1.29 mmol, 412 mg | FC(OC1=CC=C(OC2CN(C2)CCCC(=O)O)C=C1)(F)F | C14H16F3NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-(3-(4-(trifluoromethoxy)phenoxy)azetidin-1-yl) butyryl chloride | yield was 97% | FC(OC1=CC=C(OC2CN(C2)CCCC(=O)Cl)C=C1)(F)F | C14H15ClF3NO3
